US08198271B2
3-Amino-4-t-butoxycarbonylaminothiophene (Reference Compound No. 1-1)
Under ice cooling, di-t-butyl dicarbonate (0.16 g, 0.72 mmol) was added to a solution of 3,4-diaminothiophene dihydrochloride (0.13 g, 0.71 mmol) and triethylamine (0.29 mL, 2.1 mmol) in THF (4.0 mL) and then the mixture was stirred at room temperature overnight. Water (40 mL) was added to the reaction solution and the whole was extracted with ethyl acetate (30 mL) twice. The organic layer was washed with water (30 mL) and brine (30 mL), dried over anhydrous sodium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 87 mg of the title reference compound as a brown solid. (Yield 58%)

reactant | di-t-butyl dicarbonate | 0.72 mmol, 0.16 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3,4-diaminothiophene dihydrochloride | 0.71 mmol, 0.13 g | Cl.Cl.NC1=CSC=C1N
reactant | triethylamine | 2.1 mmol, 0.29 mL | C(C)N(CC)CC | C6H15N
reactant | Water | 40 mL | O | H2O
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | 3-Amino-4-t-butoxycarbonylaminothiophene | Yield 58% | NC1=CSC=C1NC(=O)OC(C)(C)C | C9H14N2O2S
